US07691882B2
3-(3-(4-Phenoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (4-phenoxymethyl-phenyl)-acetohydroximoyl chloride (150 mg, 0.545 mmol) described in Manufacturing Example 86-1-5 and 3-ethynyl-pyridin-2,6-diamine (46.3 mg, 0.348 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (104 μL, 0.747 mmol), which was stirred for 1 hour at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (45 mg, 22%).

reactant | (4-phenoxymethyl-phenyl)-acetohydroximoyl chloride | 0.545 mmol, 150 mg | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.348 mmol, 46.3 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.747 mmol, 104 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Phenoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 45 mg, 22% | O(C1=CC=CC=C1)CC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H20N4O2
